US07566724B2
Under an argon atmosphere, N-(4-iodophenyl)pyrimidin-2-amine (75 mg) was added to a suspension of sodium hydride (16 mg) in anhydrous DMF (3 ml), and the resulting mixture was stirred at room temperature for 30 minutes. The reaction solution was cooled to 0° C. and benzyl bromide (0.039 ml) was added thereto, followed by stirring the resulting mixture at room temperature for 1 hour. Saturated brine was added to the reaction solution and the resulting mixture was extracted 3 times with ethyl acetate. Organic layers were washed 3 times with water and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: ethyl acetate/hexane=1/15) to obtain N-benzyl-N-(4-iodophenyl)pyrimidin-2-amine (67 mg).

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 75 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | benzyl bromide | 0.039 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-benzyl-N-(4-iodophenyl)pyrimidin-2-amine | 67 mg | C(C1=CC=CC=C1)N(C1=NC=CC=N1)C1=CC=C(C=C1)I | C17H14IN3
